* C:\Users\PRIZMÆ\Documents\FM_transmitter\FM Transmitter\LTSpice Sims\BypassCapTesting.asc
* Generated by LTspice 24.1.10 for Windows.
CVarac N002 0 5p
R1 N002 N003 1k
V1 N003 0 1.2
CShunt N002 0 {Cshunt}
R2 N002 N001 12k
V§AC1 N001 0 AC 1
R3 N002 0 10000k
.ac dec 100 1 1G
.step param Cshunt list 470p 1n 2.2n 4.7n
.backanno
.end
